US07981874B2
4-(1-Methyl-4-oxido-1,4-azaphosphinan-4-yl)phenyl trifluoromethanesulfonate.
4-(1-Methyl-4-oxido-1,4-azaphosphinan-4-yl)phenol (0.50 g, 2.22 mmol) was made 0.5 M in DMF and N-Phenyl-bis(trifluorometanesulfonamide (1.19 g, 3.33 mmol) was added, followed by TEA (0.62 mL, 4.44 mmol). The mixture was stirred at ambient temperature for 16 h then the precipitate was filtered off and the filtrate was concentrated in vacuo. The residue was purified by HPLC (20-95% MeCN in water w/0.025% TFA). Pure fractions were identified, combined and concentrated in vacuo. The residue was taken up in EtOAc and washed with saturated aqueous sodium bicarbonate (1×) then dried (MgSO4) and concentrated in vacuo to afford the requisite product as a freebase. MS: cal'd 358 (MH+), exp 358 (MH

reactant | 4-(1-Methyl-4-oxido-1,4-azaphosphinan-4-yl)phenol | 2.22 mmol, 0.50 g | CN1CCP(CC1)(=O)C1=CC=C(C=C1)O | C11H16NO2P
reactant | trifluorometanesulfonamide | 3.33 mmol, 1.19 g | FC(S(=O)(=O)N)(F)F | CH2F3NO2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(1-Methyl-4-oxido-1,4-azaphosphinan-4-yl)phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=C(C=C1)P1(CCN(CC1)C)=O)(F)F | C12H15F3NO4PS
